US04990508
In 30 ml of diethyl ether was dissolved 3.08 g of ethyl 4-(1-diphenylmethoxycarbonylvinyl)-2,3,5-trifluorobenzoate. To the resulting solution was added, with ice-cooling, a diazomethane-diethyl ether solution prepared from 2.00 g of N-methyl-N-nitrosourea. The resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure. The residue obtained was dissolved in 30 ml of toluene. The resulting solution was stirred at 60° C. for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue obtained was purified by a column chromatography (eluant: toluene) to obtain 2.90 g (yield: 91.2%) of ethyl 4-(1-diphenylmethoxycarbonyl-2-methylvinyl)-2,3,5-trifluorobenzoate.

reactant | ethyl 4-(1-diphenylmethoxycarbonylvinyl)-2,3,5-trifluorobenzoate | 3.08 g | C1(=CC=CC=C1)C(OC(=O)C(=C)C1=C(C(=C(C(=O)OCC)C=C1F)F)F)C1=CC=CC=C1 | C25H19F3O4
reactant | diazomethane diethyl ether | [N+](=[N-])=C.C(C)OCC
reactant | N-methyl-N-nitrosourea | 2.00 g | CN(C(=O)N)N=O | C2H5N3O2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(1-diphenylmethoxycarbonyl-2-methylvinyl)-2,3,5-trifluorobenzoate | 2.90 g, yield: 91.2% | C1(=CC=CC=C1)C(OC(=O)C(=CC)C1=C(C(=C(C(=O)OCC)C=C1F)F)F)C1=CC=CC=C1 | C26H21F3O4
